US09102591B2
A mixture of 4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-carbonitrile (5.5 g, 0.027 mol) in MeOH/H2O (60 mL, 1:1) was added NaOH (3.25 g, 0.081 mol) and heated to 100° C. overnight. The MeOH was removed in vacuo. The aqueous layer was extracted with EtOAc (2×30 mL) and the organic layers was discarded. The aqueous layer was adjusted pH to 2˜3 with 3N HCl and extracted with EtOAc (6×50 mL). The organic layer was dried over Na2SO4 and concentracted to give 4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-carboxylic acid (4.0 g, yield: 67%). 1H NMR (DMSO-d6 400 MHz): δ13.04 (br, 1H), 8.71 (s, 2H), 3.80-3.70 (m, 2H), 3.60-3.40 (m, 2H), 2.61 (s, 3H), 2.40-2.30 (m, 2H), 2.00-1.85 (m, 2H).

reactant | 4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-carbonitrile | 0.027 mol, 5.5 g | CC1=NC=C(C=N1)C1(CCOCC1)C#N | C11H13N3O
reactant | NaOH | 0.081 mol, 3.25 g | [OH-].[Na+]
reactant | MeOH H2O | 60 mL | CO.O
product | 4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-carboxylic acid | 4.0 g, yield: 67% | CC1=NC=C(C=N1)C1(CCOCC1)C(=O)O | C11H14N2O3
